US05376681
(Z)-5-Acetylamino-2,4,6,7-tetramethyl-2-styryl-2,3-dihydrobenzofuran
A suspension of benzyltriphenylphosphonium chloride (0.7 g, 1.8 mmol) in tetrahydrofuran (10 ml) was cooled to -20° C. and n-butyllithium hexane solution (1.6M, 1.12 ml, 1.8 mmol) was added dropwise. The reaction mixture was stirred for 30 minutes and then a solution of 5-acetylamino-2-formyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran (0.45 g, 1.7 mmol) in tetrahydrofuran (5 ml) was added. The reaction mixture was stirred at room temperature for additional 30 minutes. Water was added to the reaction mixture and the product was extracted with ethyl acetate. The extract was washed with water, dried and then concentrated. The residue was purified by column chromatography on silica gel (isopropyl ether-ethyl acetate, 1:1) to obtain the desired compound (0.44 g, yield: 76.2%) as oil.

reactant | n-butyllithium hexane | 1.8 mmol, 1.6M, 1.12 ml | CCCCCC.C(CCC)[Li]
reactant | 5-acetylamino-2-formyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran | 1.7 mmol, 0.45 g | C(C)(=O)NC=1C(=C(C2=C(CC(O2)(C)C=O)C1C)C)C | C15H19NO3
reactant | Water | O | H2O
catalyst | benzyltriphenylphosphonium chloride | 1.8 mmol, 0.7 g | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (Z)-5-Acetylamino-2,4,6,7-tetramethyl-2-styryl-2,3-dihydrobenzofuran | 0.44 g, yield: 76.2% | C(C)(=O)NC=1C(=C(C2=C(CC(O2)(\C=C/C2=CC=CC=C2)C)C1C)C)C | C22H25NO2
